US06716863B2
2-[1-[3-[4-[2-[ (E)-2-(4-trifluoromethylphenyl)ethenyl]oxazol-4-yl]methoxyphenyl]propyl]-1H-imidazol-2-yl]-1-ethanol
Using 65% sodium hydride (40.6 mg), 4-[3-[2-(hydroxyethyl)-1H-imidazol-1-yl]propyl]phenol (246 mg) and [2-[(E)-2-(4-trifluoromethylphenyl)ethenyl]oxazol-4-yl]methyl chloride (316 mg), the same reaction as Example 17 was carried out to yield the titled compound (330 mg) as colorless needles.

reactant | sodium hydride | 40.6 mg | [H-].[Na+]
reactant | 4-[3-[2-(hydroxyethyl)-1H-imidazol-1-yl]propyl]phenol | 246 mg | OCCC=1N(C=CN1)CCCC1=CC=C(C=C1)O | C14H18N2O2
reactant | [2-[(E)-2-(4-trifluoromethylphenyl)ethenyl]oxazol-4-yl]methyl chloride | 316 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)CCl)(F)F | C13H9ClF3NO
product | 2-[1-[3-[4-[2-[ (E)-2-(4-trifluoromethylphenyl)ethenyl]oxazol-4-yl]methoxyphenyl]propyl]-1H-imidazol-2-yl]-1-ethanol | 330 mg | FC(C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C(=NC=C1)CCO)(F)F | C27H26F3N3O3
